US04329367
The starting material is prepared as follows: the mixture of 246.3 g of p-methoxyphenylacetone, 317 g of 3,3-diphenylpropylamine and 1,000 ml of anhydrous ethanol is hydrogenated at 20° and 3.4 atm. over 5 g of platinum oxide. After the theoretical amount of hydrogen has been absorbed (ca 4,000 ml), the mixture is filtered and the filtrate evaporated at 60°, to yield the 1-(4-methoxyphenyl)-2-(3,3-diphenylpropylamino)-propane as an oil.

reactant | p-methoxyphenylacetone | 246.3 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | 3,3-diphenylpropylamine | 317 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
catalyst | platinum oxide | 5 g | [Pt]=O
solvent | ethanol | 1,000 ml | C(C)O | C2H6O
product | 1-(4-methoxyphenyl)-2-(3,3-diphenylpropylamino)-propane | COC1=CC=C(C=C1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29NO
